US08912188B2
To a solution of tert-butyl 5-bromo-1H-indazole-1-carboxylate (750 mg, 2.52 mmol) in DMSO (10 mL), was added KOAc (666 mg, 6.79 mmol) and Pd(dppf)Cl2 (250 mg, 0.34 mmol). The solution was stirred for 15 mins at room temperature and then added 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1.72 g, 6.77 mmol). The resulting solution was stirred for 2.5 h at 85° C. Then the reaction was quenched by the addition of water (100 mL) and extracted with ethyl acetate (3×50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to give a residue, which was purified by a silica gel column with 1%-2% ethyl acetate in petroleum ether to afford tert-butyl 5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate as a white solid (500 mg, crude).

reactant | tert-butyl 5-bromo-1H-indazole-1-carboxylate | 2.52 mmol, 750 mg | BrC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H13BrN2O2
reactant | KOAc | 6.79 mmol, 666 mg | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 6.77 mmol, 1.72 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.34 mmol, 250 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 5-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole-1-carboxylate | CC1(C(OB(O1)C=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)(C)C)C | C18H25BN2O4
